US08633173B2
7-[5-(2-Methoxy-4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-5-(2-Methoxy-4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.5 g, 1.5 mmol), and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.6 g, 2.0 mmol). Product was isolated as a foam (0.27 g, 32%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.69 (d, J=7.99 Hz, 1H), 7.56-7.51 (m, 2H), 7.41 (d, J=7.99 Hz, 1H), 7.32-7.28 (m, 2H), 7.06-7.02 (m, 1H), 6.97-6.93 (m, 1H), 6.75 (brs, 1H), 3.86 (s, 3H), 3.62-3.48 (m, 4H), 2.91-2.77 (m, 4H) 1.52 (s, 9H). MS=554 (MH)+.

reactant | 2-chloro-5-(2-Methoxy-4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.5 mmol, 0.5 g | ClC1=NN2C(C=CC=C2C2=C(C=C(C=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 2.0 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[5-(2-Methoxy-4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C=CC=C1C1=C(C=C(C=C1)C(F)(F)F)OC)=N2 | C29H30F3N5O3
